US05814651
2-(3-Cyclopentyloxy-4-methoxyphenyl)thiazole
A solution of 130 mg of 3-cyclopentyloxy-4-methoxybenzthioamide and 100 mg of chloroacetaldehyde in 15 ml of ethanol was heated at reflux for 6 hours. The volatiles were evaporated and the residue purified on silica gel with CH2Cl2 to give 90 mg of product. M.P.: 72°-75° C.

reactant | 3-cyclopentyloxy-4-methoxybenzthioamide | 130 mg | C1(CCCC1)OC=1C=C(C(N)=S)C=CC1OC | C13H17NO2S
reactant | chloroacetaldehyde | 100 mg | ClCC=O | C2H3ClO
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 2-(3-Cyclopentyloxy-4-methoxyphenyl)thiazole | 90 mg | C1(CCCC1)OC=1C=C(C=CC1OC)C=1SC=CN1 | C15H17NO2S
